US06423704B1
Hydrolyze 4-[1-(2-methyl-thiazol-4-ylmethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.59 g, 1.38 mmol) by refluxing with hydriodic acid (57%, 3.04 mmol) in methanol (10 mL) for 10 hours. Concentrate to remove the methanol, add ether (70 mL) and allow the resultant slurry to stand for 1 hour. Decant the supernatant and dry the solid residue in vacuo at 60° C. to provide 0.78 g of 2-[1,4]diazepan-1-yl-1-(2-methyl-thiazol-4-ylmethyl)-1H-benzoimidazole dihydroiodide.

reactant | 4-[1-(2-methyl-thiazol-4-ylmethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.38 mmol, 0.59 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CC=1N=C(SC1)C)C=CC=C2 | C22H29N5O2S
reactant | hydriodic acid | 3.04 mmol | I | HI
solvent | methanol | 10 mL | CO | CH4O
product | 2-[1,4]diazepan-1-yl-1-(2-methyl-thiazol-4-ylmethyl)-1H-benzoimidazole dihydroiodide | 0.78 g | I.I.N1(CCNCCC1)C1=NC2=C(N1CC=1N=C(SC1)C)C=CC=C2 | InChI=1S/C17H21N5S.2HI/c1-13-19-14(12-23-13)11-22-16-6-3-2-5-15(16)20-17(22)21-9-4-7-18-8-10-21;;/h2-3,5-6,12,18H,4,7-11H2,1H3;2*1H
